US07273878B2
To 70 ml of ethanol, 10.7 g (70 mmol) of phenylthiourea and 11.6 g (70 mmol) of ethyl 2-chloro-3-oxobutanate were dissolved, followed by heating under refluxing for 8 hours. The reaction liquid was concentrated and dissolved in ethyl acetate and the organic layer was washed with an aqueous solution of sodium carbonate, water and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate and concentrating under reduced pressure. Solid obtained was washed with diisopropyl ether to obtain 16.8 g (yield: 91%) of ethyl 4-methyl-2-(N-phenylamino)thiazole-5-carboxylate. (2) To 50 ml of ethanol, 12.8 g (49 mmol) of ethyl-4-methyl-2-(N-phenylamino)thiazole-5-carboxylate was dissolved, followed by adding 24 g (150 mmol) of 25% sodium hydroxide aqueous solution, and stirring at 80° C. for 15 hours. The reaction liquid was poured into ice water, and acetic acid was added to make acidic. Crystal precipitated was filtered, washed with water and a mixed solvent of hexane/ethyl acetate and dried to obtain 5.50 g (yield: 48%) of 4-methyl-2-(N-phenylamino)thiazole-5-carboxylic acid.

reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | ethyl-4-methyl-2-(N-phenylamino)thiazole-5-carboxylate | 49 mmol, 12.8 g | C(C)OC(=O)C1=C(N=C(S1)NC1=CC=CC=C1)C | C13H14N2O2S
reactant | sodium hydroxide | 150 mmol, 24 g | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-methyl-2-(N-phenylamino)thiazole-5-carboxylic acid | 5.50 g, yield: 48% | CC=1N=C(SC1C(=O)O)NC1=CC=CC=C1 | C11H10N2O2S
